US08466167B2
To a solution of methyl 5-amino-2-phenethylbenzo[f][1,7]naphthyridine-8-carboxylate (from the previous step) (1.0 eq.) in THF (0.03M) was added Super-H (10 eq.) at 0° C. The solution was allowed to warm to ambient temperature over 30 min The reaction was quenched by water until no bubbling. The layers were separated and aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4 and concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give (5-amino-2-phenethylbenzo[f][1,7]naphthyridin-8-yl)methanol as an off white solid: 1H NMR (methanol-d4): δ 8.63 (dd, 1H), 8.56 (dd, 1H), 8.24 (d, 1H), 7.57 (d, 1H), 7.35 (dd, 1H), 7.27-7.15 (m, 5H), 4.75 (s, 2H), 3.20 (t, 2H), 3.06 (t, 2H). LRMS [M+H]=330.1.

reactant | methyl 5-amino-2-phenethylbenzo[f][1,7]naphthyridine-8-carboxylate | NC1=NC2=C(C=3C=C(C=NC13)CCC1=CC=CC=C1)C=CC(=C2)C(=O)OC | C22H19N3O2
solvent | THF | 0.03M | C1CCOC1 | C4H8O
product | (5-amino-2-phenethylbenzo[f][1,7]naphthyridin-8-yl)methanol | NC1=NC2=C(C=3C=C(C=NC13)CCC1=CC=CC=C1)C=CC(=C2)CO | C21H19N3O
